US06974802B2
c) Preparation of 1-O-(N-trityl-L-valyl)-2-allyl-3-stearoyl-1,3-propandiol.
To a solution of 1-O-(N-trityl-L-valyl)-2-allyl-1,3-propandiol (1.83 g, 4 mmol) in dichloromethane (40 ml) and pyridine (3.2 ml, 40 mmol) at 0° C. was added dropwise stearoyl chloride (3.62 g, 12 mmol) in dichloromethane. The solution was warmed up to room temperature, and kept for 3 hr. It was then washed with sodium hydrogen carbonate aqueous solution and dried. The product was isolated by silica gel column chromatography. 1.9 g

reactant | 1-O-(N-trityl-L-valyl)-2-allyl-1,3-propandiol | 4 mmol, 1.83 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CO)CC=C | C30H35NO3
reactant | pyridine | 40 mmol, 3.2 ml | N1=CC=CC=C1 | C5H5N
reactant | stearoyl chloride | 12 mmol, 3.62 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-O-(N-trityl-L-valyl)-2-allyl-3-stearoyl-1,3-propandiol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(C(O)C(CCCCCCCCCCCCCCCCC)=O)CC=C | C48H69NO4
